US08003796B2
Preparation of tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
Example 267 was prepared according to procedures described in Example 173 Step C substituting 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile (prepared according to the procedure described in Step B of Example 263) for 4-hydroxypyridin-2(1H)-one and substituting tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (prepared according to the procedure described in Step C of Example 1) for 1-(5-propylpyrimidin-2-yl)piperidin-4-yl methanesulfonate except that the crude product was purified by flash chromatography (SiO2, 0 to 100% EtOAc in CH2Cl2). 1H NMR (400 MHz, CDCl3) δ ppm 7.77 (t, J=7.53 Hz, 1H), 7.37-7.46 (m, 2H), 7.30-7.36 (m, 1H), 6.00 (s, 1H), 4.54-4.68 (m, 1H), 3.58-3.71 (m, 2H), 3.40-3.56 (m, 2H), 1.93-2.07 (m, 2H), 1.78-1.93 (m, 2H), 1.49 (s, 9H). MS (ESI) 392 (M−56+H).

reactant | 4-(5-chloro-4-hydroxy-2-oxopyridin-1(2H)-yl)-2-fluorobenzonitrile | ClC=1C(=CC(N(C1)C1=CC(=C(C#N)C=C1)F)=O)O | C12H6ClFN2O2
reactant | 4-hydroxypyridin-2(1H)-one | OC1=CC(NC=C1)=O | C5H5NO2
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | 1-(5-propylpyrimidin-2-yl)piperidin-4-yl methanesulfonate | CS(=O)(=O)OC1CCN(CC1)C1=NC=C(C=N1)CCC | C13H21N3O3S
product | tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | ClC=1C(=CC(N(C1)C1=CC(=C(C=C1)C#N)F)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H23ClFN3O4
